US04977179
Preparation of N-[(R)-1-ethoxycarbonyl-2-(2-phenylthioethylthio)ethyl]-alanyl-(S)-proline t-butyl ester (β-isomer)
Using 3 g of s-isomer of N-[(R)-l-ethoxycarbonyl-2-(2-phenylthioethylthio)ethyl]-alanine prepare in Reference Example 46, 1.58 of (S)-proline t-butyl ester, 1.67 g of DEPC and 1.3 ml of triethylamine and following the general procedure of Example 7, the β-isomer of the title compound was prepared as a colorless oil. Yield 3.41 g.

reactant | N-[(R)-l-ethoxycarbonyl-2-(2-phenylthioethylthio)ethyl]-alanine | C(C)OC(=O)[C@H](CSCCSC1=CC=CC=C1)N[C@@H](C)C(=O)O | C16H23NO4S2
reactant | (S)-proline t-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | DEPC | 1.67 g | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
product | N-[(R)-1-ethoxycarbonyl-2-(2-phenylthioethylthio)ethyl]-alanyl-(S)-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@@H](CSCCSC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C25H38N2O5S2
